US04163112
Preparation of O-[4-(2,2-Dimethoxyethoxy)phenyl] N-Allyl-N-benzylcarbamate
4-(2,2-Dimethoxyethoxy)phenol (0.05 mole), N-allyl-N-benzylcarbamoyl chloride (0.08 mole), triethylamine (0.05 mole) and xylene (50 ml) are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. The mixture is stirred and heated at reflux for a period of about 12 hours. After this time the reaction mixture is cooled to room temperature and is filtered. The filtrate is then washed with water and dried over anhydrous magnesium sulfate. The dried solution is then filtered and stripped of solvent and unreacted starting materials to yield the desired product O-[4-(2,2-dimethoxyethoxy)phenyl] N-allyl-N-benzylcarbamate as the residue.

reactant | 4-(2,2-Dimethoxyethoxy)phenol | 0.05 mole | COC(COC1=CC=C(C=C1)O)OC | C10H14O4
reactant | N-allyl-N-benzylcarbamoyl chloride | 0.08 mole | C(C=C)N(C(=O)Cl)CC1=CC=CC=C1 | C11H12ClNO
reactant | triethylamine | 0.05 mole | C(C)N(CC)CC | C6H15N
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | O-[4-(2,2-dimethoxyethoxy)phenyl] N-allyl-N-benzylcarbamate | C(C=C)N(C(OC1=CC=C(C=C1)OCC(OC)OC)=O)CC1=CC=CC=C1 | C21H25NO5
